US07531564B2
Step b) 7-Bromo-5-methoxy-2-(4-methoxy-3-(trifluoromethyl)phenyl]-1,3-benzoxazole
The title compound was prepared in substantially the same manner as described in Example 20, Step d (Route a), from 2-bromo-4-methoxy-6-{[4-methoxy-3-(trifluoromethyl)benzoyl]amino}phenyl 4-methoxy-3-(trifluoromethyl)benzoate and p toluenesulfonic acid monohydrate. The product was obtained as an off-white solid, m.p. 183-185° C.; MS m/e 402 (M+H)4.

reactant | 2-bromo-4-methoxy-6-{[4-methoxy-3-(trifluoromethyl)benzoyl]amino}phenyl 4-methoxy-3-(trifluoromethyl)benzoate | COC1=C(C=C(C(=O)OC2=C(C=C(C=C2NC(C2=CC(=C(C=C2)OC)C(F)(F)F)=O)OC)Br)C=C1)C(F)(F)F | C25H18BrF6NO6
reactant | toluenesulfonic acid monohydrate | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
product | 7-Bromo-5-methoxy-2-(4-methoxy-3-(trifluoromethyl)phenyl]-1,3-benzoxazole | BrC1=CC(=CC=2N=C(OC21)C2=CC(=C(C=C2)OC)C(F)(F)F)OC | C16H11BrF3NO3
